US05079260
2-Methoxy-9-fluorenemethanol
A solution of 2-methoxy-9-fluorenecarboxylic acid (2.2 g, 9.2 mmol) in 100 mL of THF at 0° C. was charged with 1M THF solution of BH3 -THF complex (20 mL, 20 mmol). The reaction mixture was stirred overnight then quenched with 10 mL of 10% acetic acid in methanol an diluted with 100 mL of water. The layers were separated, the aqueous phase was extracted with ethyl acetate (3×25 mL). The combined extracts were dried over magnesium sulfate and evaporated. The residue was crystallized from methanol-water to afford 1.87 g (87.0%) of product.

reactant | 2-methoxy-9-fluorenecarboxylic acid | 9.2 mmol, 2.2 g | COC1=CC=2C(C3=CC=CC=C3C2C=C1)C(=O)O | C15H12O3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 1M | C1CCOC1 | C4H8O
product | 2-Methoxy-9-fluorenemethanol | 1.87 g, 87.0% | COC1=CC=2C(C3=CC=CC=C3C2C=C1)CO | C15H14O2
